US05077424
A mixture of 55 g of 3-(3-tert-butyl-4-hydroxyphenyl)-propionic acid, 35 g of phenol, 7 g of dimethylformamide, 19.1 g of phosphorus oxychloride and 250 ml of toluene was stirred at 70° C. for 6 hours. The mixture was cooled to room temperature, and 800 ml of toluene was added thereto. The mixture was washed with water and an aqueous solution of sodium hydroxide, followed by washing with water. The mixture was concentrated, and the residue was purified by silica gel column chromatography to give 66.5 g of phenyl 3-(3-tert-butyl-4-hydroxyphenyl)propionate as a white crystal, m.p. 106°-109° C.

reactant | 3-(3-tert-butyl-4-hydroxyphenyl)-propionic acid | 55 g | C(C)(C)(C)C=1C=C(C=CC1O)CCC(=O)O | C13H18O3
reactant | phenol | 35 g | C1(=CC=CC=C1)O | C6H6O
reactant | dimethylformamide | 7 g | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 19.1 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | phenyl 3-(3-tert-butyl-4-hydroxyphenyl)propionate | 66.5 g | C(C)(C)(C)C=1C=C(C=CC1O)CCC(=O)OC1=CC=CC=C1 | C19H22O3
